US08110593B2
2-[1-(2,3-dimethyl-phenoxy)-but-3-enyl]-4,5-dihydro-imidazole-1-carboxylic acid tert-butyl ester (120 mg) was dissolved in a solution of 10% trifluoroacetic acid in dichloromethane (5 ml). After 24 hours the mixture was shaken between NaOH (2M) and EtOAc and the organic phase dried with Na2SO4 and evaporated to yield 2-[1-(2,3-Dimethyl-phenoxy)-but-3-enyl]-4,5-dihydro-1H-imidazole as crystals m.p. 72-74° C.

reactant | 2-[1-(2,3-dimethyl-phenoxy)-but-3-enyl]-4,5-dihydro-imidazole-1-carboxylic acid tert-butyl ester | 120 mg | C(C)(C)(C)OC(=O)N1C(=NCC1)C(CC=C)OC1=C(C(=CC=C1)C)C | C20H28N2O3
reactant | NaOH | 2M | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-[1-(2,3-Dimethyl-phenoxy)-but-3-enyl]-4,5-dihydro-1H-imidazole | CC1=C(OC(CC=C)C=2NCCN2)C=CC=C1C | C15H20N2O
